US06395737B1
c) [3-(4-Cyano-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic Acid Methyl Ester
2-(R,S)-(4-Cyano-benzyl)-N,N-dimethyl-malonamic acid (10 g, 40.6 mmol) and L-cyclohexylglycine methylester hydrochloride (8.3 g, 40 mmol) were dissolved in dimethylformamide (500 ml). After cooling to −10° C. TOTU (13.1 g, 40 mmol) and diisopropylethylamine (10.34 g, 80 mmol) were added. The mixture was stirred for 1 hour and then allowed to warm to room temperature. After evaporation ethyl acetate was added to the residue and the organic layer was extracted with aqueous sodium hydogen carbonate solution, potassium hydrogen sulfate solution and water. The organic layer was evaporated. Yield: 14.53 g (90%); MS m/z: 400.3 (M+H)+.

reactant | 2-(R,S)-(4-Cyano-benzyl)-N,N-dimethyl-malonamic acid | 40.6 mmol, 10 g | C(#N)C1=CC=C(CC(C(=O)O)C(=O)N(C)C)C=C1 | C13H14N2O3
reactant | L-cyclohexylglycine methylester hydrochloride | 40 mmol, 8.3 g | COC(=O)[C@H](C1CCCCC1)N.Cl
reactant | TOTU | 40 mmol, 13.1 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | diisopropylethylamine | 80 mmol, 10.34 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | [3-(4-Cyano-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic Acid Methyl Ester | COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C#N)C(N(C)C)=O)=O)=O | C22H29N3O4
